US07696223B2
e) [(7-Hydroxy-2-phenoxy-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-phenoxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (81 mg, 0.26 mmol) and glycine (386 mg, 5.14 mmol) in 0.5 M sodium methoxide/methanol (9.8 mL, 4.88 mmol) was refluxed for 3 days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water and extracted with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (7.3 mL). The suspension was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, concentrated in vacuo and purified on a C18 reverse column with a gradient of 0.1% TFA in water and 0.1% TFA in acetonitrile to give the title compound as a brown solid (49 mg): 1H NMR (DMSO-d6, 200 MHz): δ=13.16 (s, 1H), 9.39 (br s, 1H), 8.60 (s, 1H), 7.55 (m, 4H), 7.42 (m, 1H), 4.01 (d, J=6.4 Hz, 2H); MS: (+) m/z 346.00 (M+1).

reactant | 7-hydroxy-2-phenoxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.26 mmol, 81 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)OC2=CC=CC=C2)O | C15H12N2O4S
reactant | glycine | 5.14 mmol, 386 mg | NCC(=O)O | C2H5NO2
reactant | sodium methoxide methanol | 4.88 mmol, 0.5 M, 9.8 mL | C[O-].[Na+].CO
product | [(7-Hydroxy-2-phenoxy-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 49 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)N=C(S2)OC2=CC=CC=C2 | C15H11N3O5S
